US04663319
A mixture of methyl 3-(3-pyridylmethylamino)propionate (28.72 g), triethylamine (22 ml) and methylene chloride (240 ml) is cooled to 5°-10° C., and thereto is added dropwise a solution of ethoxycarbonylacetyl chloride (23.38 g) in methylene chloride (60 ml). The mixture is stirred at room temperature for one hour. The mixture is filtered to remove precipitates (triethylamine hydrochloride). The filtrate is washed with water, dried and then distilled to remove the solvent. The residue is purified by silica gel column chromatography (solvent, ethyl acetate) to give ethyl[N-(3-pyridylmethyl)-N-(methoxycarbonylethyl)carbamoyl]acetate (35.22 g, 77.3%) as oil.

reactant | methyl 3-(3-pyridylmethylamino)propionate | 28.72 g | N1=CC(=CC=C1)CNCCC(=O)OC | C10H14N2O2
reactant | triethylamine | 22 ml | C(C)N(CC)CC | C6H15N
reactant | ethoxycarbonylacetyl chloride | 23.38 g | C(C)OC(=O)CC(=O)Cl | C5H7ClO3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 240 ml | C(Cl)Cl | CH2Cl2
product | ethyl[N-(3-pyridylmethyl)-N-(methoxycarbonylethyl)carbamoyl]acetate | 35.22 g, 77.3% | C(C)OC(CC(N(CCC(=O)OC)CC=1C=NC=CC1)=O)=O | C15H20N2O5
